US07517876B2
methyl 1-(3,3-dimethylbutyl)-2-methoxy-1,4-dihydronaphthalene-1-carboxylate
To a solution of methyl 2-methoxy-naphthoate (1.00 g, 4.6 mmol) and tert-butyl alcohol (0.43 mL, 4.6 mmol) in anhydrous tetrahydrofuran (10 mL) at −78° C. under N2 was added anhydrous ammonia (˜20 mL), followed by the portionwise addition of potassium metal until a dark blue solution was maintained for >15 min. To the resulting mixture was added neohexyl iodide (0.5 g, 2.36 mmol), the mixture was stirred at −78° C. for 20 min, and then allowed to slowly warm to rt while evaporating the ammonia with a dry N2 stream. To the resulting suspension was added anhydrous tetrahydrofuran (10 mL), and the mixture was heated at 50° C. under N2 for 16 h. The reaction mixture was partitioned between saturated aq. NaHCO3 (20 mL) and ethyl acetate (3×20 mL), and the combined organic layers were dried over Na2SO4. The crude product was purified by column chromatography on silica gel using 19:1 hexanes:ethyl acetate to provide the title compound as a colorless gum (0.32 g, 23%). 1H NMR (300 MHz, CDCl3) δ ppm 7.11-7.23 (m, 4H), 5.06 (t, J=3.9 Hz, 1H), 3.61 (s, 3H), 3.60 (s, 3H), 3.54-3.57 (m, 2H), 2.20-2.31 (m, 1H), 2.00-2.11 (m, 1H), 0.82-0.94 (m, 1H), 0.75 (s, 9H), 0.45-0.57 (m, 1H).

reactant | methyl 2-methoxy-naphthoate | 4.6 mmol, 1.00 g | COC1=C(C2=CC=CC=C2C=C1)C(=O)OC | C13H12O3
reactant | tert-butyl alcohol | 4.6 mmol, 0.43 mL | C(C)(C)(C)O | C4H10O
reactant | ammonia | ˜20 mL | N | H3N
reactant | potassium | [K] | K
reactant | neohexyl iodide | 2.36 mmol, 0.5 g | C(CC(C)(C)C)I | C6H13I
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | methyl 1-(3,3-dimethylbutyl)-2-methoxy-1,4-dihydronaphthalene-1-carboxylate | 0.32 g, 23% | CC(CCC1(C(=CCC2=CC=CC=C12)OC)C(=O)OC)(C)C | C19H26O3
